US05880301
1-t-butoxycarbonyl-4-diphenylphosphino-2-diphenylphosphinomethylpyrrolidine
1-t-butoxycarbonyl-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine, and the like. Of these, 2,2'-bis(diphenylphosphino)-1,1'-binaphthyl and 2,2'-bis[di(4-methylphenyl)phosphino]-1,1'-binaphthyl are preferable.

reactant | 1-t-butoxycarbonyl-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine | C(C)(C)(C)OC(=O)N1C(CC(C1)P(C1CCCCC1)C1CCCCC1)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C34H49NO2P2
reactant | 2,2'-bis(diphenylphosphino)-1,1'-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2,2'-bis[di(4-methylphenyl)phosphino]-1,1'-binaphthyl | CC1=CC=C(C=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C48H40P2
product | 1-t-butoxycarbonyl-4-diphenylphosphino-2-diphenylphosphinomethylpyrrolidine | C(C)(C)(C)OC(=O)N1C(CC(C1)P(C1=CC=CC=C1)C1=CC=CC=C1)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C34H37NO2P2
